US06511997B1
Synthesis of 5-(4-fluorophenyl)-4-(4-pyridyl)-3-thiopropionylamino-pyrazole
175 mg of 5-(4-fluorophenyl)-3-propionylamino-4-(4-pyridyl)pyrazole and 450 mg of 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide were added to 30 ml of toluene, followed by heating under reflux for 2 hours. After the reaction mixture was cooled, 10% hydrochloric acid and ethyl acetate were added thereto. The aqueous layer was separated, neutralized with a saturation solution of sodium hydrogen carbonate, and extracted with chloroform-methanol (5:1). After the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel thin-layer chromatography (using chloroform-methanol (10:1) as the developing solvent). Thus, 113 mg (61% yield) of the title compound was obtained as pale-yellow crystals.

reactant | 5-(4-fluorophenyl)-3-propionylamino-4-(4-pyridyl)pyrazole | 175 mg | FC1=CC=C(C=C1)C1=C(C(=NN1)NC(CC)=O)C1=CC=NC=C1 | C17H15FN4O
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 450 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-fluorophenyl)-4-(4-pyridyl)-3-thiopropionylamino-pyrazole | 113 mg, 61% yield | FC1=CC=C(C=C1)C1=C(C(=NN1)NC(CC)=S)C1=CC=NC=C1 | C17H15FN4S
